US08017630B2
2-(4-Dimethylamino-4-phenyl-cyclohexyl)-N-p-tolyl-acetamide hydrochloride (Examples 59 and 60)
Chlorotrimethylsilane (0.477 ml) and water (34 μl) were added to a solution of the more polar diastereoisomer of 2-(4-dimethylamino-4-phenyl-cyclohexyl)-N-p-tolyl-acetamide (1.2 g, 3.4 mmol) in ethyl methyl ketone (10 ml). The hydrochloride was extracted as an oil with hexane and isolated in a yield of 78% (1.04 g; 2.7 mmol) (Example 60).

reactant | Chlorotrimethylsilane | 0.477 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | water | 34 μl | O | H2O
reactant | 2-(4-dimethylamino-4-phenyl-cyclohexyl)-N-p-tolyl-acetamide | 3.4 mmol, 1.2 g | CN(C1(CCC(CC1)CC(=O)NC1=CC=C(C=C1)C)C1=CC=CC=C1)C | C23H30N2O
solvent | ethyl methyl ketone | 10 ml | CC(=O)CC | C4H8O
product | 2-(4-Dimethylamino-4-phenyl-cyclohexyl)-N-p-tolyl-acetamide hydrochloride | Cl.CN(C1(CCC(CC1)CC(=O)NC1=CC=C(C=C1)C)C1=CC=CC=C1)C | InChI=1S/C23H30N2O.ClH/c1-18-9-11-21(12-10-18)24-22(26)17-19-13-15-23(16-14-19,25(2)3)20-7-5-4-6-8-20;/h4-12,19H,13-17H2,1-3H3,(H,24,26);1H
